US05734051
1,3-Di-n-butyl-8-chloro Xanthine
1,3-Di-n-butyl-8-nitro xanthine (0.5 g, 0.0016 mol) was refluxed for 18 hours with concentrated hydrochloric acid (8 ml). The reaction mixture was extracted with dichloromethane (20 ml), the organic layer washed with water to neutrality and then dried over anhydrous sodium sulphate. The solvent was then removed by evaporation in vacuo and the residue was recrystallised from ethanol, to give the title compound, yield 0.38 g (73%), m.pt. 152° C.

reactant | 1,3-Di-n-butyl-8-nitro xanthine | 0.0016 mol, 0.5 g | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)[N+](=O)[O-])CCCC | C13H19N5O4
reactant | hydrochloric acid | 8 ml | Cl | ClH
product | 1,3-Di-n-butyl-8-chloro Xanthine | C(CCC)N1C(=O)N(C=2N=C(NC2C1=O)Cl)CCCC | C13H19ClN4O2
